US08110581B2
(5S)-7-(2-Chloro-4-methylphenyl)-2-(trans-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-one
A mixture of (5S)-2-(trans-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-one (20 mg, 0.00007 mol) which was prepared using procedures analogous to those described in the synthesis of example 472-a and followed by standard hydrogenation to remove the carbobenzyloxy (Cbz) protecting group and 2-chloro-1-iodo-4-methylbenzene (22.7 mg, 0.0000831 mol), potassium carbonate (20.1 mg, 0.000145 mol), copper(I) iodide (0.6 mg, 0.000003 mol), and (1S,2S)-cyclohexane-1,2-diol (16.1 mg, 0.000138 mol) in tert-butyl alcohol (1.0 mL, 0.010 mol) was heated at 100° C. for 18 h. The crude product was purified by prep-HPLC to afford the desired product. LC-MS: 377.1 (M+H)+.

reactant | (5S)-2-(trans-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-one | 0.00007 mol, 20 mg | O[C@@H]1CC[C@H](CC1)N1C([C@@]2(CC1)CNCCC2)=O | C14H24N2O2
reactant | 2-chloro-1-iodo-4-methylbenzene | 0.0000831 mol, 22.7 mg | ClC1=C(C=CC(=C1)C)I | C7H6ClI
reactant | potassium carbonate | 0.000145 mol, 20.1 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (1S,2S)-cyclohexane-1,2-diol | 0.000138 mol, 16.1 mg | [C@H]1([C@H](CCCC1)O)O | C6H12O2
reactant | tert-butyl alcohol | 0.010 mol, 1.0 mL | C(C)(C)(C)O | C4H10O
catalyst | copper(I) iodide | 0.000003 mol, 0.6 mg | [Cu]I
product | (5S)-7-(2-Chloro-4-methylphenyl)-2-(trans-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-one | ClC1=C(C=CC(=C1)C)N1C[C@@]2(CCN(C2=O)[C@@H]2CC[C@H](CC2)O)CCC1 | C21H29ClN2O2
